US04224452
In U.S. Pat. No. 3,984,293, there is described the state of the art as background to the electrochemical reduction of 4-imidazole carboxylic acids. That invention is useful, however, it necessitates an extra chemical step prior to reduction, namely, hydrolysis of the ester intermediate to form the free carboxylic acid. Also, U.S. Pat. No. 4,055,573 teaches a method for preparing 4-(hydroxymethyl)-imidazoles and their lower alkyl ethers by electrochemical reduction in concentrated sulfuric acid in concentrated solutions using standard electrochemical cells with yields up to 80%. It should be noted that, although the imidazole alcohol is produced, an equally important product is imidazole ethyl ether. Subsequent reaction of the mixed alcoholalkyl ether with cysteamine hydrochloride produces the thioamine in about 60% yield. Further, in British Pat. No. 1,341,376 the reduction of 4-methyl-5-carbethoxyimidazole with lithium aluminum hydride, followed by addition of water, filtration and acidification with hydrochloric acid, affords 4-methyl-5-hydroxymethylimidazole hydrochloride. Although the yield is not given, it appears to amount to about 60%. Subsequent reactions produced 4-methyl-5-(2-aminoethyl)-imidazole.

reactant | 4-methyl-5-carbethoxyimidazole | CC=1N=CNC1C(=O)OCC | C7H10N2O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 4-methyl-5-hydroxymethylimidazole hydrochloride | Cl.CC=1N=CNC1CO | InChI=1S/C5H8N2O.ClH/c1-4-5(2-8)7-3-6-4;/h3,8H,2H2,1H3,(H,6,7);1H
